US07557103B2
B. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-imidazo[1,2-b]pyridazine
A mixture of 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (435 mg, 2.0 mmol, 1.0 equiv), 2-bromo-5-fluoro-3-methylbenzo[b]thiophene (564 mg, 2.3 mmol, 1.15 equiv), triphenylphosphine (100 mg, 0.38 mmol, 0.19 equiv), Cs2CO3 (1.37 g, 4.2 mmol, 2.1 equiv) and Pd2 dba3 (88 mg, 0.096 mmol, 0.048 equiv) in DMF (4.5 mL, degassed by sparging with nitrogen for 30 min. prior to use) is heated at 130° C. for 4 hr (magnetically-stirred under an atmosphere of N2). The reaction is cooled and partitioned between MTBE (10 mL) and satd. NH4Cl solution (10 mL). The organic phase is washed with satd. NH4Cl solution (2×5 mL), dried (Na2SO4) and concentrated in vacuo to a brown film, which is adsorbed onto silica gel (1.0 g). Material is flash chromatographed (10 g of silica gel; heptane to 5% EtOAc in heptane to 10% EtOAc in heptane) and fractions containing pure product were combined and concentrated. The residue is stirred in warm heptane (6 mL) for 10 min. then refrigerated at −20° C. for 24 hr. Light yellow crystals are separated, washed with cold heptane and dried. The product is recrystallized from MeOH (3 mL) to provide the title compound as light yellow crystals (453 mg, 65%).

reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.0 mmol, 435 mg, 1.0 equiv | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C | C13H19N3
reactant | 2-bromo-5-fluoro-3-methylbenzo[b]thiophene | 2.3 mmol, 564 mg, 1.15 equiv | BrC1=C(C2=C(S1)C=CC(=C2)F)C | C9H6BrFS
reactant | triphenylphosphine | 0.38 mmol, 100 mg, 0.19 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Cs2CO3 | 4.2 mmol, 1.37 g, 2.1 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd2 dba3 | 0.096 mmol, 88 mg, 0.048 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-imidazo[1,2-b]pyridazine | 453 mg, 65% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=C(S2)C=CC(=C1)F)C | C22H24FN3S
